US07435837B2
Treatment of (±)-[7-chloro-4-(trifluoromethyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (1.0 g, 2.46 mmol) with sodium azide (0.64 g, 9.83 mmol) generally according to the procedure described for Intermediate 98 provided (±)-2-(azidomethyl)-7-chloro-4-(trifluoromethyl)-2,3-dihydro-1-benzofuran. Treatment of the azide with palladium on carbon (0.060 g, 10 wt. %) generally according to the procedure described for Example 1 afforded 0.350 g (64%) of (±)-1-[7-chloro-4-(trifluoromethyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine as a white solid, hydrochloride salt. mp >250° C.; Anal. calcd. for C10H9F3ClNOHCl: C, 41.69; H, 3.5; N, 4.86. Found: C, 41.78; H, 3.43; N, 4.77.

reactant | (±)-[7-chloro-4-(trifluoromethyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 2.46 mmol, 1.0 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C(=CC=C2Cl)C(F)(F)F | C17H14ClF3O4S
reactant | sodium azide | 9.83 mmol, 0.64 g | [N-]=[N+]=[N-].[Na+]
reactant | (±)-2-(azidomethyl)-7-chloro-4-(trifluoromethyl)-2,3-dihydro-1-benzofuran | N(=[N+]=[N-])CC1OC2=C(C1)C(=CC=C2Cl)C(F)(F)F | C10H7ClF3N3O
reactant | azide | [N-]=[N+]=[N-]
catalyst | palladium on carbon | 0.060 g | [Pd] | Pd
product | (±)-1-[7-chloro-4-(trifluoromethyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | 0.350 g, 64% | ClC1=CC=C(C=2CC(OC21)CN)C(F)(F)F | C10H9ClF3NO
